datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OC)[NH+:10](C)C(C)C(O)C1O>>[NH:10](C)C(C)C(O)C([C:20](OC)=[O:21])O 21=20;20,10=10"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C(C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(C)[S]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CC)CC)[O-:10])C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CC)CC)C1=CC=CC=C1 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CCCCCC 21=20;20,10=10"
"C[NH:10][H].C[NH+:21]=[C:20]([NH]CC)[O]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21]C)([NH]CC)[O]CC 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[OH:21][C:20]1([H])C(O)C([H])C([H])C(CC)[OH+:10]1>>[OH:10]C(CC)C([H])C([H])C(O)[C:20]([H])=[OH+:21] 21=20;20,10=10"
"[H][S+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[O:10]([Na])C([H])/C(C)=C(C)\C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C(C)=C(C)C([H])[O+:10]1([Na]) 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)CC)[H]>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)CC)[H].[O-:21]C 10=20;20,21=21"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CCCCCC)[H].[O-:21]CCCCCC>>C1=CC=CC=C1C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)CC>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1)CC.[O-:21]CCCCCC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C([H])C(C)[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH]C(CC)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][S+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[S][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"CC[NH:10][H].CC[NH+:21]=[C:20]([NH]CC)[O]CC.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]CC)([NH]CC)[O]CC 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)[H]>>CCCCCCC1C(C(O[C:20](=[O:10])N1[H])CCCCCC)[H].[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CC1C(O[C:20](N1CC)([O-:10])[Cl:21])CCCCCC>>CC1C(O[C:20](=[O:10])N1CC)CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C([H])C(C)C([H])[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[NH][CH]([H])C([H])[CH]([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)[S][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)[S]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]([O-:10])(OC1=CC=CC=C1)[O:21]CC)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20](=[O:10])OC1=CC=CC=C1)C1=CC=CC=C1.[O-:21]CC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])[S][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"CCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CCCCCC)[O-:10])C>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CCCCCC)C 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CCCCCC)CC)C.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC)C 21=20;20,10=10"
